US04380644
A mixture of 9.6 g of tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate, 8.3 g of potassium carbonate, 20 g of benzyl bromide and 200 ml of acetone is stirred at room temperature for 3 days. Then, the reaction mixture is treated in the same manner as described in Example 1-(2). 9.3 g of tert.-butyl (4S)-1-benzyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are obtained as colorless syrup. Yield: 75.6%

reactant | tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 9.6 g | C(C1=CC=CC=C1)OC(=O)N1C(NC[C@H]1C(=O)OC(C)(C)C)=O | C16H20N2O5
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 20 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | tert.-butyl (4S)-1-benzyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 9.3 g, Yield: 75.6% | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C23H26N2O5
